US04388473
Preparation of 2,5-dichloro-6-methoxy benzoic acid, (ethoxycarbonyl)ethyl ester
To a 100-milliliter round bottom flask provided with a reflux condenser was charged 20 grams of 2,5-dichloro-6-methoxybenzoic acid (prepared as described in paragraph (a) of this Example) and 30 milliliters (48 grams) of thionyl chloride. The mixture was heated to reflux and maintained at reflux for two hours after which the miture was stripped under vacuum to remove excess thionyl chloride. The oily residue was poured into a separatory funnel along with water and benzene and the contents thoroughly mixed. A small amount of potassium chloride was added to assist phase separation and the benzene layer was washed several times with water. Benzene was then stripped under vacuum and the residue was vacuum distilled. 20.8 grams of a clear oil ws collected, the oil having a boiling point of 82°-84° C. at 0.1 mm Hg. 12 grams of this oil and 75 milliliters of benzene were charged to a 250-milliter round bottom flask provided with a reflux condenser. To this stirred mixture was added, dropwise, 6 milliliters of ethyl lactate and 6 grams of triethylamine in 40 milliliters of benzene. (Some solids formation was noted.) The mixture was then heated to reflux and maintained at reflux for 31/2 hours after which the mixture was cooled and filtered, 1.7 grams of amine hydrochloride solids being collected. 5 milliliters of pyridine was added to the filtrate and the mixture was heated to reflux and maintained at reflux overnight. The mixture was then filtered (3.2 grams of amine hydrochloride solids being collected) and the filtrate was washed consecutively with dilute hydrochloric acid, water, dilute aqueous sodium hydroxide and twice more with water. Benzene was then stripped under vacuum leaving a black oil. The oil was vacuum distilled and 6.7 grams of clear oil was collected at 142°-144° C. and 0.2 mm Hg., which oil was identified by NMR spectroscopy as 2,5-dichloro-6-methoxy-benzoic acid, (ethoxycarbonyl)ethyl ester.

reactant | 2,5-dichloro-6-methoxybenzoic acid | 20 grams | ClC1=C(C(=O)O)C(=C(C=C1)Cl)OC | C8H6Cl2O3
reactant | thionyl chloride | 30 milliliters, 48 grams | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl lactate | 6 milliliters | C(C(O)C)(=O)OCC | C5H10O3
reactant | triethylamine | 6 grams | C(C)N(CC)CC | C6H15N
solvent | benzene | 40 milliliters | C1=CC=CC=C1 | C6H6
product | 2,5-dichloro-6-methoxy benzoic acid, (ethoxycarbonyl)ethyl ester | ClC1=C(C(=O)OCCC(=O)OCC)C(=C(C=C1)Cl)OC | C13H14Cl2O5
